US08633189B2
To a suspension of NaH (3.22 g, 80.6 mmol) in DMSO (20 mL) was added diethyl malonate (12.9 g, 12.2 mL, 80.6 mmol) dropwise. The reaction mixture was heated at 60° C. for 30 min. A solution of 2-fluoro-4-methyl-1-nitro-benzene (5.00 g, 32.2 mmol) in DMSO (6 mL) was added and the reaction mixture heated at 60° C. for 2 h. The reaction was quenched with saturated ammonium chloride (20 mL), acidified (pH˜1) with 1N HCl and extracted into ether. The product was dried over Na2SO4, filtered, and concentrated in vacuo. Silica gel chromatography (0-60% ethyl acetate/hexane) provided diethyl 2-(5-methyl-2-nitrophenyl)malonate as a yellow solid (9.50 g, 99% yield). LC/MS m/z 296.2 [M+H]+. 1H NMR (400.0 MHz, DMSO-d6) δ 8.05 (d, J=8.4 Hz, 1H), 7.46 (dd, J=1.2, 8.4 Hz, 1H), 7.30 (d, J=1.2 Hz, 1H), 5.36 (s, 1H), 4.22-4.14 (q, 1H), 2.43 (s, 3H), 1.18 (t, J=7.1 Hz, 6H).

reactant | NaH | 80.6 mmol, 3.22 g | [H-].[Na+]
reactant | diethyl malonate | 80.6 mmol, 12.2 mL, 12.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-fluoro-4-methyl-1-nitro-benzene | 32.2 mmol, 5.00 g | FC1=C(C=CC(=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | diethyl 2-(5-methyl-2-nitrophenyl)malonate | 9.50 g, 99% yield | CC=1C=CC(=C(C1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C14H17NO6
